US09382222B2
Step 8: (N-(4-Chloro-benzyl)-4-((+/−)trans-3-hydroxy-1-methanesulfonyl-piperidin-4-yloxy)-N-isobutyl-benzenesulfonamide)
To a solution of N-(4-Chloro-benzyl)-N-isobutyl-4-((+/−)trans-1-methanesulfonyl-3-triisopropylsilanyloxy-piperidin-4-yloxy)-benzenesulfonamide (271 mg) in THF (5 mL) was added a 1 M solution of tetrabutylammonium fluoride in THF (609 μL, 609 mmol) and the reaction was stirred at room temperature for 30 minutes. Water was added and then extracted with EtOAc, washed with brine, dried with Na2SO4 then concentrated, purified by silica gel column chromatography (0-75% EtOAc in cyclohexane) and freeze dried to give the title compound (107 mg). 1H NMR (400 MHz, DMSO): δ 7.76 (d, 2H), 7.36-7.37 (m, 4H), 7.20 (d, 2H), 5.54 (d, 1H), 4.41 (td, 1H), 4.23 (s, 2H), 3.70-3.72 (m, 1H), 3.52 (dd, 1H), 3.42 (d, 1H), 3.04-3.08 (m, 1H), 2.94 (s, 3H), 2.90 (dd, 1H), 2.83 (d, 2H), 2.12-2.19 (m, 1H), 1.57-1.59 (m, 2H), 0.67 (d, 6H). LCMS (m/z, Method B) ES+ 531 [M+1]+.

reactant | N-(4-Chloro-benzyl)-N-isobutyl-4-((+/−)trans-1-methanesulfonyl-3-triisopropylsilanyloxy-piperidin-4-yloxy)-benzenesulfonamide | 271 mg | ClC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)O[C@H]2[C@@H](CN(CC2)S(=O)(=O)C)O[Si](C(C)C)(C(C)C)C(C)C)CC(C)C)C=C1 | C32H51ClN2O6S2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 609 mmol, 609 μL | C1CCOC1 | C4H8O
product | N-(4-Chloro-benzyl)-4-((+/−)trans-3-hydroxy-1-methanesulfonyl-piperidin-4-yloxy)-N-isobutyl-benzenesulfonamide | 107 mg | ClC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)O[C@H]2[C@@H](CN(CC2)S(=O)(=O)C)O)CC(C)C)C=C1 | C23H31ClN2O6S2
